US08623885B2
Synthesis of tert-butyl 8-acetoxy-2-chloro-7,8-dihydro-1,6-naphthyridine-6(5H)-carboxylate
A solution of 6-(tert-Butoxycarbonyl)-2-chloro-5,6,7,8-tetrahydro-1,6-naphthyridine 1-oxide (150 mg, 0.53 mmol) in acetic anhydride (2.5 mL, 26.3 mmol), was stirred and heated at 70° C. overnight under nitrogen atmosphere. DCM (20 mL) was added to the reaction mixture, and the resulting solution was washed sequentially with water, saturated aqueous NaHCO3 solution and brine, dried over anhydrous MgSO4, and concentrated under vacuum. The residue was purified by flash chromatography on silica gel eluting with 0% to 30% EtOAc in hexane to give the title compound (115 mg, 66.8% yield). 1H NMR (400 MHz, CDCl3) δ ppm 1.51 (9H, s), 2.13 (3H, s), 3.30-3.49 (1H, d, J=12.0 Hz), 4.25-4.40 (1H, m), 4.45-4.55 (1H, d, J=12.0 Hz), 5.20-5.00 (1H, m), 5.73 (1H, br. s), 7.34 (1H, d, J=8.22 Hz), 7.51 (1H, d, J=8.41 Hz) ppm; LC/MS m/z: 327 (M+1).

reactant | 6-(tert-Butoxycarbonyl)-2-chloro-5,6,7,8-tetrahydro-1,6-naphthyridine 1-oxide | 0.53 mmol, 150 mg | C(C)(C)(C)OC(=O)N1CC=2C=CC(=[N+](C2CC1)[O-])Cl | C13H17ClN2O3
reactant | acetic anhydride | 26.3 mmol, 2.5 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 8-acetoxy-2-chloro-7,8-dihydro-1,6-naphthyridine-6(5H)-carboxylate | 115 mg, 66.8% yield | C(C)(=O)OC1CN(CC=2C=CC(=NC12)Cl)C(=O)OC(C)(C)C | C15H19ClN2O4
